US20010018525A1
2-Methoxy-4-[5′-(8-phenyl-octylcarbamoyl)-3,3″-bis-trifluoromethyl-[1,1′;3′,1″]terphenyl -2′yloxymethyl]-benzoic acid
To a solution of 2-methoxy-4-[5′-(8-phenyl-octylcarbamoyl)-3,3″-bis-trifluoromethyl-[1,1′;3′,1″]terphenyl-2′yloxymethyl]-benzoic acid methyl ester (0.352 g, 0.44 mmol, 1 eq) in THF/EtOH (3/2) (10 mL) was added 1M NaOH (4 mL) and the reaction was stirred at rt overnight. It was then concentrated in vacuo, diluted with H2O, and acidified with 2M HCl to pH 1. It was extracted with EtOAc, dried over MgSO4 and concentrated in vacuo. The residue was purified by flash chromatography (20% EtOAc/hexane+1% Formic acid) to afford the title compound (0.342 g, 865) as a white foam. 1H NMR (DMSO-d6) δ12.50 (bs, 1H); 8.59 (t, 1H); 7.99-7.92 (m, 6H); 7.80-7.68 (m, 4H); 7.37 (d, 1H); 7.26-7.10 (m, 5H); 6.38 (s, 1H); 6.30 (d, 1H); 4.21 (s, 2H); 3.58 (s, 3H); 3.26 (dd, 2H); 2.52 (t, 2H); 1.53 (m, 4H); 1.28 (m, 8H); IR (KBr) 3350, 2950, 2850, 1720, 1640, 1620, 1550, 1495, 1475, 1415, 1320, 1160, 1150, 1120, 1095, 1080, 1030 cm−1; mass spectrum [(+)APCI], m/z 778 (M+H)+; Anal. Calcd. for C44H41F6NO5: C, 67.95; H, 5.31; N, 1.80, Found: C, 67.22; H, 5.22; N, 1.74.

reactant | 2-methoxy-4-[5′-(8-phenyl-octylcarbamoyl)-3,3″-bis-trifluoromethyl-[1,1′;3′,1″]terphenyl-2′yloxymethyl]-benzoic acid methyl ester | 0.44 mmol, 0.352 g, 1 eq | COC(C1=C(C=C(C=C1)COC1=C(C=C(C=C1C1=CC(=CC=C1)C(F)(F)F)C(NCCCCCCCCC1=CC=CC=C1)=O)C1=CC(=CC=C1)C(F)(F)F)OC)=O | C45H43F6NO5
reactant | NaOH | 1M, 4 mL | [OH-].[Na+]
solvent | THF EtOH | 10 mL | C1CCOC1.CCO
product | 2-Methoxy-4-[5′-(8-phenyl-octylcarbamoyl)-3,3″-bis-trifluoromethyl-[1,1′;3′,1″]terphenyl -2′yloxymethyl]-benzoic acid | 0.342 g | COC1=C(C(=O)O)C=CC(=C1)COC1=C(C=C(C=C1C1=CC(=CC=C1)C(F)(F)F)C(NCCCCCCCCC1=CC=CC=C1)=O)C1=CC(=CC=C1)C(F)(F)F | C44H41F6NO5
